US07776879B2
Preparation of Benzylphenylcarbamic acid 1-azabicyclo[2.2.1]hept-4-yl ester
In a two necked flask under nitrogen, 3 ml of THF and 150 mg (1.33 mmoles) of 4-hydroxy-1-azabicyclo[2.2.1]heptane were placed. The suspension was cooled to −60° C. and 0.7 ml (1.46 mmoles) of LDA was added dropwise. After the addition the temperature was allowed to rise to 0° C. and was kept during two hours. A solution of 295 mg (1.20 mmoles) of benzylphenylcarbamyl chloride in 2 ml of THF was added in 30 minutes. The reaction mixture was allowed to slowly warm to room temperature and stirred for 18 hours. The suspension was filtered and the filtrate concentrated under reduced pressure. The residue was extracted with dichloromethane and water. The organic layer was extracted with 2N HCl and the aqueous layer basified with 8N NaOH and extracted with dichloromethane. The organic layers were dried over Na2SO4 anhydre and evaporated. The oil obtained (162 mg) was purified by HPLC-MS to obtain 4.86 mg (0.015 mmoles) 1.3% of a pure product as formiate, structure confirmed by 1H-NMR 300 MHz, (DMSO-d6): δ 1.86 (m, 4H), 2.65 (s, 2H), 2.77 (bs, 2H), 3.03 (bs, 2H), 4.84 (s, 2H), 7.14-7.32 (m, 10H). 8.19 (s, 1H); MS [M-HCOO]+: 323.

reactant | 4-hydroxy-1-azabicyclo[2.2.1]heptane | 1.33 mmoles, 150 mg | OC12CCN(CC1)C2 | C6H11NO
reactant | LDA | 1.46 mmoles, 0.7 ml | [Li+].CC(C)[N-]C(C)C
reactant | benzylphenylcarbamyl chloride | 1.20 mmoles, 295 mg | C(C1=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C14H12ClNO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | Benzylphenylcarbamic acid 1-azabicyclo[2.2.1]hept-4-yl ester | 0.015 mmoles, 4.86 mg, 1.3% | N12CCC(CC1)(C2)OC(N(C2=CC=CC=C2)CC2=CC=CC=C2)=O | C20H22N2O2
